US07011838B2
Using 0.23 g of 4-t-butylbenzyl bromide, 3 ml of N,N-dimethylformamide, 0.05 g of sodium hydride (60% in oil), and 0.17 g of (3,3,3-trifluoropropyl)malononitrile, and according to the process described in the Production Example 26, there was obtained 0.14 g of 2-(4-t-butylbenzyl)-2-(3,3,3-trifluoropropyl)malononitrile (the present compound (33)).

reactant | 4-t-butylbenzyl bromide | 0.23 g | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
reactant | sodium hydride | 0.05 g | [H-].[Na+]
reactant | (3,3,3-trifluoropropyl)malononitrile | 0.17 g | FC(CCC(C#N)C#N)(F)F | C6H5F3N2
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-(4-t-butylbenzyl)-2-(3,3,3-trifluoropropyl)malononitrile | 0.14 g, Yield: 47% | C(C)(C)(C)C1=CC=C(CC(C#N)(C#N)CCC(F)(F)F)C=C1 | C17H19F3N2
